US08304557B2
5-chloro-N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-methyl-1H-pyrazole-4-carboxamide
In the same manner as in Example 18-4 and using 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid (291 mg, 1.81 mmol), tetrahydrofuran (10 mL), oxalyl chloride (236 μL, 2.72 mmol), N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.647 mmol), N,N-dimethylformamide (2 drops) and N,N-dimethylacetamide (10 mL) as starting materials, the title compound (25.0 mg, 9%) was obtained as a white solid.

reactant | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid | 1.81 mmol, 291 mg | ClC1=C(C=NN1C)C(=O)O | C5H5ClN2O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 2.72 mmol, 236 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.647 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 5-chloro-N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-methyl-1H-pyrazole-4-carboxamide | 25.0 mg, 9% | ClC1=C(C=NN1C)C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(C1)N=C(N2)NC(=O)C2CC2 | C21H18ClN7O3
